US07319157B1
In a dry 3-necked, round bottomed flask, equipped with a magnetic stirrer, a thermometer, a nitrogen inlet tube and the dropping funnel containing the dodecanoyl chloride solution, 7.34 g (56 mmol) of creatine is suspended, with stirring, in 50 ml of dry dichloromethane. To this suspension a catalytic amount (0.1 mmol) of pyridine is also added. The suspension is stirred in a dry ice and acetone bath to a temperature of between about −15° C. and 0° C. When the target temperature is reached the drop wise addition of dodecanoyl chloride is commenced. Addition of dodecanoyl chloride continues, with cooling and stirring, until all of the dodecanoyl chloride is added, after which the reaction is allowed to warm to room temperature with constant stirring. The solution is then filtered to remove any remaining creatine, and the volatile dichloromethane and pyridine are removed under reduced pressure yielding 2-(3-dodecanoyl-1-methylguanidino)acetic acid.

reactant | dodecanoyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | creatine | 56 mmol, 7.34 g | O=C(O)CN(C)C(N)=N | C4H9N3O2
reactant | pyridine | 0.1 mmol | N1=CC=CC=C1 | C5H5N
reactant | dry ice | C(=O)=O | CO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
product | 2-(3-dodecanoyl-1-methylguanidino)acetic acid | C(CCCCCCCCCCC)(=O)NC(N(C)CC(=O)O)=N | C16H31N3O3
